US05866568
3-Chloroperoxybenzoic acid (50%, 2.4 g) was added over 5 minutes to a solution of N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-2-[4-(2-methylprop-2-enyl)phenyl]pyridine-3-sulphonamide (1.8 g) in dichloromethanc (75 ml) at 0° C. The reaction mixture was allowed to warm to ambient temperature and stirred a further 1 hour. The mixture was washed with saturated aqueous sodium hydrogen carbonate solution (20 ml), water and saturated sodium chloride solution then dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by suction flash chromatography followed by gradient elution with 0-40% ethyl acetate/hexane through a silica gel Mega Bond Elut column to give 2-[4-(2,3-epoxy-2-methylpropyl)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.16 g) as a solid, 1H NMR (CDCl3): 0.65 (d, 6 H), 1.3 (s, 3 H), 1.7 (m, 1 H), 2.5 (s, 3 H), 2.65 (dd, 2 H), 2.9 (q, 2 H), 3.85 (d, 2 H), 4.0 (s, 3 H), 7.3 (d, 2 H), 7.5 (dd, 1 H), 7.6 (d, 2 H), 7.95 (s, 1 H), 8.85 (dd, 1 H), 8.95 (dd, 1 H); mass spectrum (+ve ESP): 527 (M+H)+.

reactant | 3-Chloroperoxybenzoic acid | 2.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-2-[4-(2-methylprop-2-enyl)phenyl]pyridine-3-sulphonamide | 1.8 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)CC(=C)C)C1=NC=C(N=C1OC)C | C26H30N4O5S
product | 2-[4-(2,3-epoxy-2-methylpropyl)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.16 g | O1C(CC2=CC=C(C=C2)C2=NC=CC=C2S(=O)(=O)N(C2=NC=C(N=C2OC)C)C(=O)OCC(C)C)(C1)C | C26H30N4O6S
